US07531532B2
4-(4-Aminophenylamino)-6-[(pyrrolidin-1-yl)carbonylamino]pyrimidine
Benzyl N-{4-[6-(pyrrolidin-1-ylcarbonyl)aminopyrimidin-4-ylamino]phenyl]carbamate (210 mg) was dissolved in tetrahydrofuran (5 ml)-methanol (5 ml), and then 10% palladium carbon (200 mg) was added thereto under a nitrogen atmosphere, followed by replacing with hydrogen inside the system and stirring for 5 hrs. After replacing with nitrogen inside the system, the reaction mixture was filtered to remove the catalyst, which was washed with tetrahydrofuran and ethanol in this order. The filtrate was concentrated under a reduced pressure to give a residue, to which hexane-ethyl acetate was added to precipitate crystals. The crystals were filtered, and dried under aeration to provide the titled compound (103 mg, 71%) as white crystals.

reactant | Benzyl N-{4-[6-(pyrrolidin-1-ylcarbonyl)aminopyrimidin-4-ylamino]phenyl]carbamate | 210 mg | N1(CCCC1)C(=O)NC1=CC(=NC=N1)NC1=CC=C(C=C1)NC(OCC1=CC=CC=C1)=O | C23H24N6O3
reactant | hydrogen | [H][H] | H2
reactant | hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | methanol | 5 ml | CO | CH4O
catalyst | palladium carbon | 200 mg | [C].[Pd]
product | 4-(4-Aminophenylamino)-6-[(pyrrolidin-1-yl)carbonylamino]pyrimidine | 103 mg, 71% | NC1=CC=C(C=C1)NC1=NC=NC(=C1)NC(=O)N1CCCC1 | C15H18N6O
